US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-[4-(morpholinomethyl)benzoyl]thiourea
Commercially available 4-bromomethylbenzoic acid (300 mg) was dissolved in acetonitrile (10 ml). Potassium carbonate (30 mg) and morpholine (130 μl) were added to the solution, and the mixture was stirred at room temperature for one hr. The reaction layer was subjected to separation with chloroform and a saturated aqueous sodium hydrogencarbonate solution. The organic layer was then concentrated to give methyl 4-(morpholinomethyl)benzoate. Methanol (1 ml), water (150 μl), and potassium hydroxide (15 mg) were added to the residue, and the mixture was heated at 60° C. for one hr. After the completion of the reaction, the solvent was removed by distillation to give 4-(morpholinomethyl)benzoic acid. Toluene (20 ml) and thionyl chloride (1 ml) were added to the residule, and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 4-(morpholinomethyl)-1-benzenecarbonyl isothiocyanate was prepared using the resultant 4-(morpholinomethyl)-1-benzenecarbonyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 4-(morpholinomethyl)-1-benzenecarbonyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (74 mg, yield 78%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(morpholinomethyl)-1-benzenecarbonyl chloride | O1CCN(CC1)CC1=CC=C(C=C1)C(=O)Cl | C12H14ClNO2
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | 4-(morpholinomethyl)-1-benzenecarbonyl isothiocyanate | O1CCN(CC1)CC1=CC=C(C=C1)C(=O)N=C=S | C13H14N2O2S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-[4-(morpholinomethyl)benzoyl]thiourea | 74 mg, yield 78% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(C1=CC=C(C=C1)CN1CCOCC1)=O | C30H30N4O5S
